US07410747B2
In a reaction vessel, 111.14 g (0.5 mol) of 3-methoxy-4-(1-ethoxyethoxy)styrene and 94.59 g (0.5 mol) of N-(4-hydroxyphenyl)maleimide were dissolved in 400 ml of tetrahydrofuran. While stirring the resulting solution, a nitrogen gas was passed into the system. Subsequently, 12.42 g (0.05 mol) of polymerization initiator V-65 (produced by Wako Pure Chemical Industries, Ltd.) was added thereto and the reaction solution was heated at 65° C. After stirring under heat for 10 hours by adding V-65 in the same amount as above every one hour, the reaction solution was allowed to cool to room temperature and then added dropwise in 5 L of hexane to precipitate a polymer. The solid obtained by filtration was dissolved in 800 ml of tetrahydrofuran and the resulting solution was again added dropwise in 5 L of hexane. After filtration, the solid obtained was dried under reduced pressure to obtain 181.04 g of a 3-methoxy-4-(1-ethoxyethoxy)styrene/N-(4-hydroxyphenyl)maleimide copolymer.

reactant | 3-methoxy-4-(1-ethoxyethoxy)styrene | 0.5 mol, 111.14 g | COC=1C=C(C=C)C=CC1OC(C)OCC | C13H18O3
reactant | N-(4-hydroxyphenyl)maleimide | 0.5 mol, 94.59 g | OC1=CC=C(C=C1)N1C(C=CC1=O)=O | C10H7NO3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | 5 L | CCCCCC | C6H14
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | hexane | 5 L | CCCCCC | C6H14
product | 3-methoxy-4-(1-ethoxyethoxy)styrene N-(4-hydroxyphenyl)maleimide | 181.04 g | COC=1C=C(C=C)C=CC1OC(C)OCC.OC1=CC=C(C=C1)N1C(C=CC1=O)=O | InChI=1S/C13H18O3.C10H7NO3/c1-5-11-7-8-12(13(9-11)14-4)16-10(3)15-6-2;12-8-3-1-7(2-4-8)11-9(13)5-6-10(11)14/h5,7-10H,1,6H2,2-4H3;1-6,12H
